US07238808B2
3-[7-Trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-benzenesulfonamide
The title compound was prepared from 3-ethynyl-7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine (example C.1) (355 mg, 1.0 mmol) and 3-bromobenzene-1-sulfonamide [CAS 89599-01-9; commercially available] (236 mg, 1.0 mmol) according to

reactant | 3-ethynyl-7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine | 1.0 mmol, 355 mg | C(#C)C=1C=NN2C1N=C(C=C2C(F)(F)F)C2=CC=C(C=C2)C(F)(F)F | C16H7F6N3
reactant | 3-bromobenzene-1-sulfonamide | BrC=1C=C(C=CC1)S(=O)(=O)N | C6H6BrNO2S
product | 3-[7-Trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-benzenesulfonamide | FC(C1=CC(=NC=2N1N=CC2C#CC=2C=C(C=CC2)S(=O)(=O)N)C2=CC=C(C=C2)C(F)(F)F)(F)F | C22H12F6N4O2S
